US04792628
5.75 Grams of 1-amino-7-hydroxy-4-methylindane hydrochloride was suspended in 40 ml of acetic acid, then 3.27 ml of acetic anhydride and a solution consisting of 2.59 ml of concentrated nitric acid and 10 ml of acetic acid were added thereto, and the whole mixture was stirred at a room temperature for 6 hours. The solvent was removed by evaporation, the residue was washed with acetone and recrystallized from ethanol to obtain 2 g of 1-amino-7-hydroxy-4-methyl-6-nitroindane hydrochloride in the form of yellow needle-like crystals. Melting point: 200°-230° C. (decomp.).

reactant | 1-amino-7-hydroxy-4-methylindane hydrochloride | Cl.NC1CCC2=C(C=CC(=C12)O)C
reactant | acetic anhydride | 3.27 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 2.59 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-amino-7-hydroxy-4-methyl-6-nitroindane hydrochloride | 2 g | Cl.NC1CCC2=C(C=C(C(=C12)O)[N+](=O)[O-])C | InChI=1S/C10H12N2O3.ClH/c1-5-4-8(12(14)15)10(13)9-6(5)2-3-7(9)11;/h4,7,13H,2-3,11H2,1H3;1H
